US06951881B2
Preparation of 3-Acetyl-5-[(phenylsulfonyl)amino]-1H-indole
A solution of 3-acetyl-5-aminoindole (1.57 g, 9 mmol) in pyridine is treated dropwise at 0° C. with benzenesulfonyl chloride (1.25 g, 9.9 mmol), stirred for 16 h at ambient temperatures, poured into dilute aqueous HCl and extracted with ethyl acetate. The combined extracts are washed sequentially with water and brine, dried over Na2SO4 and concentrated in vacuo to afford the title product as a white solid, 2.8 g (99% yield), identified by NMR and mass spectral analyses.

reactant | 3-acetyl-5-aminoindole | 9 mmol, 1.57 g | C(C)(=O)C1=CNC2=CC=C(C=C12)N | C10H10N2O
reactant | benzenesulfonyl chloride | 9.9 mmol, 1.25 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-Acetyl-5-[(phenylsulfonyl)amino]-1H-indole | 99% yield | C(C)(=O)C1=CNC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1 | C16H14N2O3S
